US05677316
(S)-3-(N,N-dibenzylaminomethyl)-3-fluoromethyl-1-((S)-α-methylbenzyl)pyrrolidine
Sodium borohydride (12.2 g) was added to a solution of (R)-N,N-dibenzyl-3-fluoromethyl-1-((S)-α-methylbenzyl)-5-oxopyrrolidine-3-carboxamide (28.6 g) obtained in Preparative Example 10 in tetrahydrofuran (300 ml), and a solution of conc. sulfuric acid (8.6 ml) in tetrahydrofuran (100 ml) was dropwise added at not more than 5° C. over 1 hour. 3N Hydrochloric acid (78 ml) was dropwise added under ice-cooling and the mixture was refluxed for 1 hour with stirring. The reaction mixture was made alkaline by an aqueous solution of sodium hydroxide, and extracted with ethyl acetate, washed with water, dried, concentrated, and purified by silica gel column chromatography to give the object compound as an oil.

reactant | Sodium borohydride | 12.2 g | [BH4-].[Na+]
reactant | (R)-N,N-dibenzyl-3-fluoromethyl-1-((S)-α-methylbenzyl)-5-oxopyrrolidine-3-carboxamide | 28.6 g | C(C1=CC=CC=C1)N(C(=O)[C@@]1(CN(C(C1)=O)[C@H](C1=CC=CC=C1)C)CF)CC1=CC=CC=C1 | C28H29FN2O2
reactant | sulfuric acid | 8.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | Hydrochloric acid | 3N, 78 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (S)-3-(N,N-dibenzylaminomethyl)-3-fluoromethyl-1-((S)-α-methylbenzyl)pyrrolidine | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C[C@@]1(CN(CC1)[C@H](C1=CC=CC=C1)C)CF | C28H33FN2
